US09422300B2
Phenyl(3-methoxy-1,2,4-thiadiazol-5-yl)carbamate
3-Methoxy-1,2,4-thiadiazol-5-amine a (500 mg, 3.82 mmol) and phenyl carbonochloridate b (600 mg, 3.82 mmol) were dissolved in 20 mL of dichloromethane, followed by addition of triethylamine (0.8 mL, 5.73 mmol). After reacting for 16 hours, 30 mL of H2O were added into the reaction mixture to dilute the solution. The aqueous phase and organic phase were separated, the aqueous phase was extracted with dichloromethane (20 mL×2), and the organic phases were combined, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography with elution system A to obtain the title product phenyl(3-methoxy-1,2,4-thiadiazol-5-yl)carbamate c (200 mg, yield 20.8%) as a white solid.

reactant | 3-Methoxy-1,2,4-thiadiazol-5-amine | COC1=NSC(=N1)N | C3H5N3OS
reactant | phenyl carbonochloridate | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | triethylamine | 5.73 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | H2O | 30 mL | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | phenyl(3-methoxy-1,2,4-thiadiazol-5-yl)carbamate | C1(=CC=CC=C1)OC(NC1=NC(=NS1)OC)=O | C10H9N3O3S
